US05350748
Methyl 3-dimethylamino-5-(methylthio)benzo[b]thiophene-2-carboxylate
Prepared from methyl 3-amino-5-(methylthio)-benzo[b]thiophene-2-carboxylate by alkylation with formaldehyde as described in the preparation of methyl 4-chloro-3-(dimethylamino)benzo[b]thiophene-2-carboxylate. Yield 71% after recrystallization from ether-petroleum ether; mp=63°-66° C.

reactant | methyl 3-amino-5-(methylthio)-benzo[b]thiophene-2-carboxylate | NC=1C2=C(SC1C(=O)OC)C=CC(=C2)SC | C11H11NO2S2
reactant | formaldehyde | C=O | CH2O
reactant | methyl 4-chloro-3-(dimethylamino)benzo[b]thiophene-2-carboxylate | ClC1=CC=CC=2SC(=C(C21)N(C)C)C(=O)OC | C12H12ClNO2S
product | Methyl 3-dimethylamino-5-(methylthio)benzo[b]thiophene-2-carboxylate | Yield 71% | CN(C=1C2=C(SC1C(=O)OC)C=CC(=C2)SC)C | C13H15NO2S2
